US08530413B2
3,3-Dimethyl-5-trifluoromethyl-1,3-dihydroindol-2-one
464 mg of 1-acetyl-3,3-dimethyl-5-trifluoromethyl-1,3-dihydroindol-2-one were dissolved in 4 ml of ethanol, and 1 ml of 1N sodium hydroxide solution was added. The reaction mixture was then stirred at room temperature for one hour. The reaction solution was extracted with 80 ml of methyl tert-butyl ether. The organic phase was washed with 30 ml of water and with 30 ml of saturated NaCl solution, dried over MgSO4 and concentrated under reduced pressure. This gave 354 mg of 3,3-dimethyl-5-trifluoromethyl-1,3-dihydroindol-2-one as a colorless solid.

reactant | 1-acetyl-3,3-dimethyl-5-trifluoromethyl-1,3-dihydroindol-2-one | 464 mg | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(F)(F)F)(C)C)=O | C13H12F3NO2
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3,3-Dimethyl-5-trifluoromethyl-1,3-dihydroindol-2-one | CC1(C(NC2=CC=C(C=C12)C(F)(F)F)=O)C | C11H10F3NO
